US05948911
Following the procedure of Example 1, the reaction of benzylamine with 2,4-dichloro-6-nitro-thieno-[2,3-d]-pyrimidine yields 2-chloro-6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 2,4-dichloro-6-nitro-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])Cl | C6HCl2N3O2S
product | 2-chloro-6-nitro-4-benzylamino-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])NCC2=CC=CC=C2 | C13H9ClN4O2S
